US08859569B2
6-Methyl-1H-pyrazolo[3,4-d]pyrimidine
4.464 g (approx. 24.28 mmol, purity 92%) of 4-chloro-6-methyl-1H-pyrazolo[3,4-d]pyrimidine was dissolved in 180 ml dioxane and 2.948 g (29.14 mmol) of triethylamine and 5.629 g of 20% palladium hydroxide on charcoal were added and it was hydrogenated at 3 bar hydrogen pressure and RT for 2 days. 100 ml ethyl acetate, 2.948 g (29.14 mmol) of triethylamine and 2.000 g of 20% palladium hydroxide on charcoal were added. The mixture was hydrogenated with hydrogen at 3 bar hydrogen pressure and RT for 3 h. The reaction mixture was filtered on Celite, washed with a little dioxane/ethyl acetate and the filtrate was concentrated in the rotary evaporator. 2.180 g (purity 73%, 49% of theor.) of the target compound was obtained.

reactant | 4-chloro-6-methyl-1H-pyrazolo[3,4-d]pyrimidine | approx. 24.28 mmol, 4.464 g | ClC1=C2C(=NC(=N1)C)NN=C2 | C6H5ClN4
reactant | triethylamine | 29.14 mmol, 2.948 g | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | triethylamine | 29.14 mmol, 2.948 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 180 ml | O1CCOCC1 | C4H8O2
catalyst | palladium hydroxide on charcoal | 5.629 g | [OH-].[OH-].[Pd+2]
catalyst | palladium hydroxide on charcoal | 2.000 g | [OH-].[OH-].[Pd+2]
product | 6-Methyl-1H-pyrazolo[3,4-d]pyrimidine | CC1=NC=C2C(=N1)NN=C2 | C6H6N4
